US08389720B2
N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-{[3-(4-methylpiperazin-1-yl)oxepan-3-yl]methyl}cyclohexanecarboxamide
N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-{[3-(4-methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methyl}cyclohexanecarboxamide (59 mg, 0.116 mmole) was hydrogenated at atmospheric pressure (H2 balloon) with 10% Pd/C (13 mg, 0.012 mmole) in EtOH at RT. After 16 hr the mixture was filtered through a pad of Celite washing with EtOH and concentrated to an off-white solid (57 mg, 96%). 1H-NMR (CDCl3, 500 MHz) d 7.58 (t, J=7.08 Hz, 1 H), 7.52 (d, J=6.59 Hz, 1 H), 7.39 (d, J=8.30 Hz, 1 H), 7.25 (m, 1 H), 7.21 (s, 1 H), 5.34 (d, J=19.78 Hz, 1 H), 4.58 (d, J=19.78 Hz, 1 H), 4.31 (d, J=14.41 Hz, 1 H), 4.01 (m, 1 H), 3.88 (dd AB, J=13.91 and 74.95 Hz, 1 H), 3.78 (s, 3 H), 3.37 (m, 1 H), 2.91 (d, J=14.65 Hz, 1 H), 2.80-2.26 (m, 12 H), 1.84-1.06 (m, 17 H). HRMS (M+H)+ calculated 509.3486. found 509.3491.

reactant | N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-{[3-(4-methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methyl}cyclohexanecarboxamide | 0.116 mmole, 59 mg | CN1C(C(=CC2=CC=CC=C12)CN(C(=O)C1CCCCC1)CC1(COC=CCC1)N1CCN(CC1)C)=O | C30H42N4O3
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 0.012 mmole, 13 mg | [Pd] | Pd
product | N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-{[3-(4-methylpiperazin-1-yl)oxepan-3-yl]methyl}cyclohexanecarboxamide | CN1C(C(=CC2=CC=CC=C12)CN(C(=O)C1CCCCC1)CC1(COCCCC1)N1CCN(CC1)C)=O | C30H44N4O3
